US07560558B2
5-Hydroxy-1H-2-indolecarboxylic acid (328 mg) was dissolved in ethanol (10 ml) to prepare a solution. Concentrated sulfuric acid was added to the solution, and the mixture was heated under reflux for 3 hr. The reaction solution was cooled to room temperature, an aqueous sodium hydrogencarbonate solution was then added thereto, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with saturated brine and was dried over anhydrous magnesium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by column chromatography on silica gel using ethyl acetate-hexane to give ethyl 5-hydroxy-1H-2-indolecarboxylate (336 mg, yield 88%).

reactant | 5-Hydroxy-1H-2-indolecarboxylic acid | 328 mg | OC=1C=C2C=C(NC2=CC1)C(=O)O | C9H7NO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl 5-hydroxy-1H-2-indolecarboxylate | 336 mg, yield 88% | OC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H11NO3
